US09227978B2
(3,4-Dichlorophenyl)(5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methanone
To a solution of (3,4-dichlorophenyl)(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methanone (100 mg, 0.35 mmol) in DCM (10 mL) at 0° C., Et3N (106 mg, 1 mmol) was added followed by sulfonyl chloride (60 mg, 0.37 mmol). The resulting mixture was stirred at room temperature overnight. The mixture was partitioned between DCM and water. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by Isolera One (silica gel cartridge, 10-100% ethyl acetate/hexanes) to afford the desired product (14 mg, 11%). 1H NMR (300 MHz, CDCl3) δ: 7.60 (d, J=2.0 Hz, 1H), 7.51 (d, J=8.2 Hz, 1H), 7.35 (dd, J=2.0, 8.2 Hz, 1H), 6.50 (dd, J=9.9, 16.5 Hz, 1H), 6.30 (d, J=16.6 Hz, 1H), 6.09 (d, J=9.9 Hz, 1H), 2.90-4.10 (m, 10H). ESI-MS m/z: 375.0[M+H]+.

reactant | (3,4-dichlorophenyl)(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methanone | 0.35 mmol, 100 mg | ClC=1C=C(C=CC1Cl)C(=O)N1CC2CNCC2C1 | C13H14Cl2N2O
reactant | Et3N | 1 mmol, 106 mg | CCN(CC)CC | C6H15N
reactant | sulfonyl chloride | 0.37 mmol, 60 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (3,4-Dichlorophenyl)(5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methanone | 14 mg, 11% | ClC=1C=C(C=CC1Cl)C(=O)N1CC2CN(CC2C1)S(=O)(=O)C=C | C15H16Cl2N2O3S
